US08202858B2
N-[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-fluoro-benzyl]-formamide
Formic acid (0.85 ml, 22.5 mmol) and acetic anhydride (1.4 ml, 13.5 mmol) were combined and stirred for 1 h at room temperature. (4-Aminomethyl-3-fluoro-phenyl)-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone hydrochloride from Example E98.2 (113 mg, 0.3 mmol) was added and the mixture was stirred for 1 h. Water (20 ml) was added and the mixture was stirred for 1 h. It was diluted with chloroform, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo to yield a white solid identified as the title compound (48 mg, 40%).

reactant | Formic acid | 22.5 mmol, 0.85 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 13.5 mmol, 1.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | (4-Aminomethyl-3-fluoro-phenyl)-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone hydrochloride | Cl.NCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=C(C=C2)C)F
reactant | Water | 20 ml | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-fluoro-benzyl]-formamide | 48 mg, 40% | CN1N=CC=2CN(C3=C(NC12)C=C(C=C3)C)C(=O)C3=CC(=C(CNC=O)C=C3)F | C21H20FN5O2
